US05726205
trans-O-(4-Chlorobenzoyl)-4-(4-dimethylaminomethylphenyl)-cyclohexanol
A solution of 1.0 g (0.0043 mol) of trans-4-(4-dimethylaminomethylphenyl)-cyclohexanol and 0.6 ml of triethylamine in 50 ml of methylene chloride is combined, dropwise, with 0.75 g (0.0043 mol) of 4-chlorobenzoylchloride, with stirring, and refluxed for 3 hours. After cooling, 50 ml of water are added, the mixture is adjusted to pH 12-13 with sodium hydroxide solution, the methylene chloride phase is separated off and the aqueous phase is extracted once more with methylene chloride. The combined organic phases are dried over sodium sulphate and evaporated down in vacuo. The solid residue is purified by column chromatography (aluminium oxide neutral, activity stage III, ICN; petroleum ether/ethyl acetate=40:1). White crystals are obtained with a melting point of 94°-95° C.

reactant | trans-4-(4-dimethylaminomethylphenyl)-cyclohexanol | 0.0043 mol, 1.0 g | CN(C)CC1=CC=C(C=C1)[C@@H]1CC[C@H](CC1)O | C15H23NO
reactant | triethylamine | 0.6 ml | C(C)N(CC)CC | C6H15N
reactant | 4-chlorobenzoylchloride | 0.0043 mol, 0.75 g | ClC1=CC=C(C(=O)Cl)C=C1 | C7H4Cl2O
reactant | sodium hydroxide | [OH-].[Na+]
solvent | methylene chloride | 50 ml | C(Cl)Cl | CH2Cl2
solvent | water | 50 ml | O | H2O
product | trans-O-(4-Chlorobenzoyl)-4-(4-dimethylaminomethylphenyl)-cyclohexanol | ClC1=CC=C(C(=O)O[C@@H]2CC[C@H](CC2)C2=CC=C(C=C2)CN(C)C)C=C1 | C22H26ClNO2
